Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fatigue
 
Major Surgical or Invasive Procedure:
Blood transfusion x1
Esophogastroduodenoscopy
Colonoscopy 

 
History of Present Illness:
Ms. ___ is a ___. without a significant PMH who presents 
as
a referral from her primary care physician ___ 3mo of fatigue,
myalgias and dyspnea on exertion found to have anemia with a HgB
of 6.0. She was recently evaluated at ___ for sore
throat/ear pain and received a course of Penicillin with
improvement.

Several months ago, Ms. ___ reports visiting her physician
who prescribed vitamin B12 (she subsequently ran out) as well as
vitamin D. She then represented to her primary care physician 
for
ongoing myalgias, shortness of breath as well as fatigue for the
past 3 months and was subsequently sent to ___ for a HgB of
6.0. Patient states she gets tired doing chores around the house
which is unusual for her, and she also had to stop working
(previously worked at a ___) due to these symptoms. Her
SOB is worse with activity, but has become largely persistent
over the last month, as she now has intermittent SOB at rest. 
She
intermittently has palpitations and some leg swelling at the end
of the work-day, but otherwise denies any CP or
cough/wheezing/mucus production. She has BM's 3x/week which is
normal for her and they have not had any hematochezia or
black/tarry stools. She notes acid reflux, but otherwise denies
any diarrhea, abdominal pain, N/V. She has chronic headaches
which occur daily with some blurry vision that subsequently
resolves. These are stable. She otherwise denies any fevers,
chills, epistaxis, rashes, bruising or numbness/tingling.

Ms. ___ last had her menstural period ___ years ago. She had
an ovarian cyst removed, but she has never had any GI surgeries
in the past. She reports eating a balanced meal with chicken,
vegetables and rice two times/day although she does eat chips 
and
other snacks throughout the night. She has not yet had a
colonoscopy, but she has regular pap smears. Her sister
unfortunately passed away from stomach cancer. 
 
Past Medical History:
Ovarian cyst removal

 
Social History:
___
Family History:
- Father: heart disease (unknown)
- Mother: lung disease (unknown)
- Cancer: sister passed away from stomach cancer
 
Physical Exam:
ADMISSION PHYSICAL EXAM.
GENERAL: sitting on side of bed, pale but comfortable
HEENT: PERRLA, EOMI, pale conjunctiva, MMM but discoloration of
the hard palate
NECK: supple without lymphadenopathy, no thyroid nodules
CARDIAC: Normal S1/S2 with RRR, no MRG
LUNG: no respiratory distress, clear to auscultation 
bilaterally,
no crackles, wheezes, or rhonchi  
ABD: +BS, soft, mild tenderness to palpation below epigastrum,
nondistended, no hepatosplenomegaly
EXT: Warm, well perfused, no lower extremity edema, 2+/symmetric
distal pulses
NEURO: Awake, alert, oriented, CN II-XII intact, ___ strength
bilaterally, intact sensation to light touch bilaterally
SKIN: No significant rashes evident 

DISCHARGE PHYSICAL EXAM.
VS: T 98|BP 113/62|HR 76|RR 18|SpO2 97% RA
GENERAL: standing in room NAD
HEENT: PERRLA, EOMI, pale conjunctiva, MMM but discoloration of
the hard palate
NECK: supple without lymphadenopathy, no thyroid nodules
CARDIAC: Normal S1/S2 with RRR, no MRG
LUNG: no respiratory distress, clear to auscultation 
bilaterally,
no crackles, wheezes, or rhonchi  
ABD: +BS, soft, non tender non distended, no hepatosplenomegally
EXT: Warm, well perfused, no lower extremity edema, 2+/symmetric
distal pulses
NEURO: Awake, alert, oriented, CN II-XII intact, ___ strength
bilaterally, intact sensation to light touch bilaterally
SKIN: No significant rashes evident 

 
Pertinent Results:
ADMISSION LABS
==============
___ 08:00PM BLOOD WBC-9.8 RBC-3.18* Hgb-6.0* Hct-22.0* 
MCV-69* MCH-18.9* MCHC-27.3* RDW-20.8* RDWSD-50.8* Plt ___
___ 08:00PM BLOOD Neuts-65.9 ___ Monos-6.4 Eos-1.5 
Baso-0.8 Im ___ AbsNeut-6.44* AbsLymp-2.45 AbsMono-0.63 
AbsEos-0.15 AbsBaso-0.08
___ 11:33PM BLOOD ___ PTT-35.1 ___
___ 08:00PM BLOOD Ret Aut-1.1 Abs Ret-0.04
___ 08:00PM BLOOD Glucose-95 UreaN-15 Creat-0.5 Na-141 
K-3.9 Cl-102 HCO3-23 AnGap-16
___ 08:00PM BLOOD ALT-27 AST-50* LD(LDH)-186 CK(CPK)-54 
AlkPhos-95 TotBili-0.3
___ 08:00PM BLOOD calTIBC-729* VitB12-1339* Hapto-130 
Ferritn-5.9* TRF-561*

NOTABLE INTERVAL LABS
=====================
___ 07:03AM BLOOD TSH-0.86
___ 07:03AM BLOOD Free T4-1.5
___ 07:05AM BLOOD HBsAg-NEG HBsAb-POS HBcAb-NEG
___ 07:03AM BLOOD IgA-475*
___ 07:03AM BLOOD tTG-IgA-16
___ 07:05AM BLOOD HCV Ab-NEG

DISCHARGE LABS
==============
___ 07:05AM BLOOD WBC-7.9 RBC-4.04 Hgb-8.4* Hct-29.9* 
MCV-74* MCH-20.8* MCHC-28.1* RDW-24.4* RDWSD-61.3* Plt ___
___ 07:05AM BLOOD Glucose-106* UreaN-12 Creat-0.6 Na-144 
K-4.1 Cl-105 HCO3-21* AnGap-18
___ 07:05AM BLOOD ALT-32 AST-49* AlkPhos-80 TotBili-0.4
___ 07:05AM BLOOD Calcium-10.3 Phos-4.2 Mg-1.9

IMAGING
=======
___ RUQUS
1. Echogenic liver consistent with steatosis. Other forms of 
liver disease and more advanced liver disease including 
steatohepatitis or significant hepatic fibrosis/cirrhosis cannot 
be excluded on this study. 
2. Normal gallbladder. 
RECOMMENDATION(S):  Radiological evidence of fatty liver does 
not exclude 
cirrhosis or significant liver fibrosis which could be further 
evaluated by ___. This can be requested via the Liver 
Center (FibroScan), or the Radiology Department with MR 
___, in conjunction with a GI/Hepatology consultation

___ EGD
Normal esophagus and duodenum, 5mm stomach polyp that was 
biopsied

___ Colonscopy
Normal mucosa, single non bleeding polyp (biopsied) in rectum, 
fair prep. Will need repeat colonscopy in ___ year. 

 
Brief Hospital Course:
PATIENT SUMMARY
===============
___ year old female with no significant PMH presented to outside 
provider with fatigue, dyspnea, and weight loss, found to have 
hgb of 6.0 and referred to ___ for blood transfusion with 
appropriate rise in Hgb, now s/p unrevealing EGD and colonoscopy 
discharged with plan for pill endsoscopy with GI in outpatient 
setting and PCP follow up for iron deficiency anemia of unknown 
etiology.

TRANSITIONAL ISSUES
===================
[ ] f/u stomach and rectal polyp biopsy results
[ ] will need pill endoscopy in outpatient setting with GI
[ ] consider fibroscan to assess for cirrhosis
[ ] f/u H pylori stool antigen, HBV and HCV serologies
[ ] will need HLA DQ2 and DQ8
[ ] colonoscopy here was inadequate for screening, she will need 
a repeat colonoscopy in ___ year (___)

ACUTE ISSUES
============
#Iron deficiency anemia
Found to have hgb of 6 in outpatient setting after a few months 
of fatigue. She denies any further menstrual bleeds or abnormal 
uterine bleeding. She had appropriate increase in Hct to 8.6 in 
the setting of pRBC transfusion and IV iron x3d. Patient 
underwent EGD and colonoscopy that were not revealing for any 
source of bleed or malignancy, however prep was moderate and 
will require pill endoscopy in outpatient setting. IgA 475 and 
tTG-IgA 16. H pylori stool antigen pending at time of discharge. 
Current etiology remains unknown at this time. Discharged with 
PO ferrous sulfate to take every other day.

#Transaminitis
#Elevated INR
#Hepatic Steatosis
AST 50 and ALT 27 on admission, INR of 1.2. RUQUS during 
admission with steatosis but cannot exclude cirrhosis. Hemolysis 
labs and CK unremarkable. No known risk factors for cirrhosis at 
this time. Will need fibroscan in outpatient setting to rule out 
cirrhosis.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Ferrous Sulfate 325 mg PO 4X/WEEK (___) 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
every other day Disp #*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
Iron deficiency anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

It was a privilege taking care of you at ___ 
___.  

WHY WAS I ADMITTED TO THE HOSPITAL?
===================================
- You were feeling fatigued 
- You reported that you were loosing weight

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
==========================================
- You received a blood transfusion because your blood levels 
were low. This increased your blood levels
- A gastroenterologist looked in your esophagus, stomach, and 
colon for any signs of bleeding
- They found a polyp in your stomach and rectum, but no evidence 
of bleeding
- You began to feel better and were ready to go home

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
============================================  
- Please continue to take all your medications and follow up 
with your doctors at your ___ appointments.
- We prescribed you a new medication to help keep your iron 
levels up. Please take this pill every other day.  

We wish you all the best!

Sincerely,  
Your ___ Care Team  
 
Followup Instructions:
___